US04883815
16.7 g of 6-fluoro-3,4-dihydro-2(1H)-naphthalenone in 200 ml of benzene are boiled at reflux for 2.5 hours with 8.4 ml of pyrrolidine and 0.35 g of anhydrous p-toluenesulfonic acid. The 1-(6-fluoro-3,4-dihydro-2-naphthyl)pyrrolidine obtained is treated, without purification, with 10.8 g of acrylamide and 0.5 g of p-toluenesulfonic acid. The mixture is heated under nitrogen at 100° for 2 hours and at 150° for 2 hours. The mixture is dissolved in 180 ml of chloroform, washed with water and chromatographed over 150 g of silica gel with chloroform. Recrystallization from ethyl acetate gives 8-fluoro-1,4,5,6-tetrahydrobenzo[f]quinolin-3(2H)-one with melting point 223°-224°.

reactant | 6-fluoro-3,4-dihydro-2(1H)-naphthalenone | 16.7 g | FC=1C=C2CCC(CC2=CC1)=O | C10H9FO
reactant | pyrrolidine | 8.4 ml | N1CCCC1 | C4H9N
reactant | p-toluenesulfonic acid | 0.35 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 200 ml | C1=CC=CC=C1 | C6H6
product | 1-(6-fluoro-3,4-dihydro-2-naphthyl)pyrrolidine | FC=1C=C2CCC(=CC2=CC1)N1CCCC1 | C14H16FN
